US05516774
9,10-Dihydro-10-(4-nitrobenzoyl]-4H-pyrrolo-[1,2-a]thieno[2.3-e][1,4]diazepine
To a solution of 10 mmol of 9,10-dihydro-4H-pyrrolo[1,2-a]thieno[2,3-e][1,4]diazepine in 50 ml of methylene chloride under argon is added 15 mmol of triethylamine followed by ice bath cooling. A solution of 11 mmol of 4-nitrobenzoyl chloride in 10 ml of methylene chloride is added dropwise. Following complete addition, the ice bath is removed and the reaction mixture stirred at room temperature for 2 hours. The volatiles are removed in vacuo to give a residue which is dissolved in ethyl acetate. The solution is washed with water, 1N HCl, NaHCO3, and brine. The organic layer is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give desired product as a solid.

reactant | 9,10-dihydro-4H-pyrrolo[1,2-a]thieno[2,3-e][1,4]diazepine | 10 mmol | S1C=CC2=C1NCC=1N(C2)C=CC1 | C10H10N2S
reactant | triethylamine | 15 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 11 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9,10-Dihydro-10-(4-nitrobenzoyl]-4H-pyrrolo-[1,2-a]thieno[2.3-e][1,4]diazepine | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2SC=C4)C=CC3)C=C1 | C17H13N3O3S
